US07026503B2
A stirred kettle cascade consisting of 3 stirred reactors which each had a reaction volume of 1 l and were equipped with column, condenser and phase separation vessel was fed in continuous operation with, per hour, 533 g of crude acrylic acid, 15 g of sulfuric acid, 510 g of n-butanol and 200 g of the mixture obtained in the back-extraction of the acrylic acid (see below). In addition, 107 g of a low boiler fraction (see below) per hour were recycled via the column of the first reactor. The crude acrylic acid contained substantially 99.3% by weight of acrylic acid, 0.2% by-weight of acetic acid, 0.03% by weight of propionic acid, 0.11% by weight of maleic anhydride, 0.2% by weight of diacrylic acid and 0.1% by weight of phenothiazine. The reaction temperatures in the reactors were 107° C., 118° C. and 125° C., and the pressure was 700 mbar. A mixture of water, n-butanol, n-butyl acrylate, n-butyl acetate and dibutyl ether was obtained at the top of the column and separated into an aqueous phase and an organic phase. The aqueous phase was discharged and, apart from the discharged fraction (see below), the organic phase was recycled as reflux to the column. 25 g per hour of the organic phase, mainly comprising 24% by weight of n-butyl acrylate, 54% by weight of n-butanol, 8% by weight of n-butyl acetate and 2% by weight of dibutyl ether, were discharged. The column was stabilized by adding 30 g of a 1% strength phenothiazine solution in n-butyl acrylate to the uppermost tray. The condensate was stabilized by applying 50 ml of a 1% strength aqueous solution of 4-hydroxy-2,2,6,6-tetramethylpiperidin-N-oxyl to the condenser. The reactor discharge (1280 g/h) still contained 0.6% by weight of acrylic acid, and the acrylic acid conversion was 98.0%.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | n-butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
solvent | n-butyl acetate | C(C)(=O)OCCCC | C6H12O2
solvent | n-butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | dibutyl ether | C(CCC)OCCCC | C8H18O
